US07399775B2
5-(4-Chlorobenzenesulfonylmethyl)-1H-tetrazole
To an N,N-dimethylformamide (100 ml) solution of 4-chlorophenylsulfonylacetonitrile (2.81 g, 13.0 mmol) and triethylamine hydrochloride (4.24 g, 65.2 mmol) was added sodium azide (10.8 g, 78.2 mmol) and the mixture was stirred at 80° C. for 16 hours. The reaction mixture was then cooled to room temperature. Ethyl acetate was added and the mixture was washed with a saturated aqueous solution of ammonium chloride. The organic layer was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The resulting solid was washed with diethyl ether and then, collected by filtration, whereby the title compound (2.53 g, 9.78 mmol, 75%) was obtained as a white solid.

reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | 4-chlorophenylsulfonylacetonitrile | 13.0 mmol, 2.81 g | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
reactant | triethylamine hydrochloride | 65.2 mmol, 4.24 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 78.2 mmol, 10.8 g | [N-]=[N+]=[N-].[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(4-Chlorobenzenesulfonylmethyl)-1H-tetrazole | 9.78 mmol, 2.53 g, 75% | ClC1=CC=C(C=C1)S(=O)(=O)CC1=NN=NN1 | C8H7ClN4O2S
